US07902219B2
0.391 g of (6-bromoimidazo[1,2-a]pyridin-2-yl)(phenyl)methanone, 0.237 g of phenylboronic acid, 45 mg of tetrakis(triphenylphosphine)palladium, 4 mL of aqueous 2M sodium carbonate solution, 6 mL of acetonitrile and 6 mL of toluene are introduced into a 20 mL microwave tube. The mixture is stirred for 20 minutes in a microwave machine set at 150° C. After cooling, the organic phase is separated out, dried and evaporated. The residue is taken up in a mixture of dichloromethane and pentane. The solid is filtered off and then purified by trituration in methanol to give 0.16 g of phenyl(6-phenylimidazo[1,2-a]pyridin-2-yl)methanone in the form of an off-white solid.

reactant | (6-bromoimidazo[1,2-a]pyridin-2-yl)(phenyl)methanone | 0.391 g | BrC=1C=CC=2N(C1)C=C(N2)C(=O)C2=CC=CC=C2 | C14H9BrN2O
reactant | phenylboronic acid | 0.237 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetonitrile | 6 mL | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)palladium | 45 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | phenyl(6-phenylimidazo[1,2-a]pyridin-2-yl)methanone | 0.16 g | C1(=CC=CC=C1)C(=O)C=1N=C2N(C=C(C=C2)C2=CC=CC=C2)C1 | C20H14N2O
